US05104888
5-{4-[2-(3,7-Dimethyloctyl)-6-hydroxy-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy]benzyl}thiazolidine-2,4-dione
The procedure described in Example 3 was repeated, but using 1.1 g of ethyl 3-{4-[6-acetoxy-2-(3,7-dimethyloctyl)-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy]phenyl}-2-chloropropionate (prepared as described in Preparation 33), 0.2 g of thiourea, 1.5 ml of sulfolane, 5 ml of 2N aqueous hydrochloric acid and 10 ml of ethylene glycol monomethyl ether, to give the title compound, as a slightly yellow powder, softening at 41°-45° C.

reactant | ethyl 3-{4-[6-acetoxy-2-(3,7-dimethyloctyl)-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy]phenyl}-2-chloropropionate | 1.1 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(CCC(CCCC(C)C)C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C36H49ClO7
reactant | thiourea | 0.2 g | NC(=S)N | CH4N2S
reactant | sulfolane | 1.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
solvent | ethylene glycol monomethyl ether | 10 ml | COCCO | C3H8O2
product | 5-{4-[2-(3,7-Dimethyloctyl)-6-hydroxy-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | CC(CCC1(OC2=C(C(=C(C(=C2C(C1)=O)C)O)C)C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)CCCC(C)C | C33H43NO6S
